US03957763
Following the procedure of Example 1, 1-bromo-3,4,7-trimethyl-2,6-octadiene and 7-hydroxy-chromane are reacted to form 7-(3,4,7-trimethyl-2,6-octadienyloxy)-chromane; nD20 = 1.5368.

reactant | 1-bromo-3,4,7-trimethyl-2,6-octadiene | BrCC=C(C(CC=C(C)C)C)C | C11H19Br
reactant | 7-hydroxy-chromane | OC1=CC=C2CCCOC2=C1 | C9H10O2
product | 7-(3,4,7-trimethyl-2,6-octadienyloxy)-chromane | CC(=CCOC1=CC=C2CCCOC2=C1)C(CC=C(C)C)C | C20H28O2
